US08420640B2
A suspension of N-benzyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (1.2 g, 2.4 mmol), 2 M copper sulfate solution (10 ml, 2.0 mmol), and sodium borohydride (0.46 g, 12.2 mmol) in 40 ml ethanol was stirred at room temperature overnight. The run was quenched with additional 20 ml water, and it was extracted with acetyl acetate (3×20 ml). (4-(3-(N-benzyl-N-phenylamino)-4-aminophenyl)piperazin-1-yl)(phenyl)methanone (0.8 g, 71%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.29 (d, br, 4H), 3.56 (s, br, 4H), 3.93 (s, 2H), 4.88 (s, 2H), 6.68 (d, J=7.9 Hz, 2H), 6.80 (m, 4H), 7.19 (dd, J=7.4, 8.7 Hz, 2H), 7.25-7.45 (m, 5H), 7.47 (s, 5H). 13C NMR (125 MHz, CDCl3): δ (ppm) 51.6, 51.8, 51.9, 56.1, 114.2, 117.8, 118.1, 118.4, 119.5, 127.4, 127.5, 127.6, 128.9, 129.0, 129.7, 130.0, 133.9, 136.2, 138.8, 139.5, 145.1, 148.2, 170.8.

reactant | N-benzyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 2.4 mmol, 1.2 g | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C1=CC=CC=C1 | C30H28N4O3
reactant | sodium borohydride | 12.2 mmol, 0.46 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | copper sulfate | 2.0 mmol, 2 M, 10 ml | S(=O)(=O)([O-])[O-].[Cu+2]
product | (4-(3-(N-benzyl-N-phenylamino)-4-aminophenyl)piperazin-1-yl)(phenyl)methanone | 0.8 g, 71% | C(C1=CC=CC=C1)N(C1=CC=CC=C1)C=1C=C(C=CC1N)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C30H30N4O
